US03940395
A well blended mixture of the above prepared 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine (2.0 g.) and 5.0 g. of p-chlorothiophenol is heated in an oil bath maintaining the temperature at 160°C. for 3 hours. After being cooled to room temperature, the reaction mixture is triturated with 60 ml. of 30°/o sodium hydroxide. The product is collected on a sintered glass funnel and washed with water repeatedly. It amounted to 2.9 g. and melted at 145°-150°C. Upon recrystallization from absolute ethanol, there is obtained 4-(4-chlorophenylthio)-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine, m.p. 152°-154°C.

reactant | 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | 2.0 g | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=CC=C1 | C15H17ClN4
reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | 4-(4-chlorophenylthio)-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | ClC1=CC=C(C=C1)SC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=CC=C1 | C21H21ClN4S
